Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[CH3:9][c:10]1[c:11](-[c:12]2[n:13][c:14](-[c:15]3[cH:16][cH:17][c:18]([O:19][CH:20]([CH3:21])[CH3:22])[c:23]([Cl:24])[cH:25]3)[n:26][o:27]2)[n:28][c:29]2[n:30]1[CH2:31][CH2:32][NH:33][CH2:34]2>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[N:33]1[CH2:32][CH2:31][n:30]2[c:10]([CH3:9])[c:11](-[c:12]3[n:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([O:19][CH:20]([CH3:21])[CH3:22])[c:23]([Cl:24])[cH:25]4)[n:26][o:27]3)[n:28][c:29]2[CH2:34]1,[CH3:9][c:10]1[c:11](-[c:12]2[n:13][c:14](-[c:15]3[cH:16][cH:17][c:18]([O:19][CH:20]([CH3:21])[CH3:22])[c:23]([Cl:24])[cH:25]3)[n:26][o:27]2)[n:28][c:29]2[n:30]1[CH2:31][CH2:32][NH:33][CH2:34]2.[Br:101][CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8]>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[N:33]1[CH2:32][CH2:31][n:30]2[c:10]([CH3:9])[c:11](-[c:12]3[n:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([O:19][CH:20]([CH3:21])[CH3:22])[c:23]([Cl:24])[cH:25]4)[n:26][o:27]3)[n:28][c:29]2[CH2:34]1,SN2,"[(33, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][N:4]1[CH2:5][CH2:6][CH2:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21]1=[O:22].[CH3:23][C:24]([CH3:25])([CH3:26])[O:27][C:28](=[O:29])[N:30]1[CH2:31][CH2:32][CH:33]([NH2:34])[CH2:35][CH2:36]1>>[C:1](=[O:2])([CH2:3][N:4]1[CH2:5][CH2:6][CH2:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21]1=[O:22])[NH:34][CH:33]1[CH2:32][CH2:31][N:30]([C:28]([O:27][C:24]([CH3:23])([CH3:25])[CH3:26])=[O:29])[CH2:36][CH2:35]1,[OH:101][C:1](=[O:2])[CH2:3][N:4]1[CH2:5][CH2:6][CH2:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21]1=[O:22].[CH3:23][C:24]([CH3:25])([CH3:26])[O:27][C:28](=[O:29])[N:30]1[CH2:31][CH2:32][CH:33]([NH2:34])[CH2:35][CH2:36]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][N:4]1[CH2:5][CH2:6][CH2:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21]1=[O:22])[NH:34][CH:33]1[CH2:32][CH2:31][N:30]([C:28]([O:27][C:24]([CH3:23])([CH3:25])[CH3:26])=[O:29])[CH2:36][CH2:35]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (34, 1), ([1, 2], 2), (303, 34.1), ([34.1, 34], 34), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH3:2])=[O:3].[CH3:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][CH2:14][N:15]2[CH2:25][CH2:24][N:18]([C:19](=[O:20])[C@@H:21]([CH3:22])[NH2:23])[CH2:17][CH2:16]2)[cH:26][cH:27]1>>[C:1]([CH3:2])(=[O:3])[NH:23][C@@H:21]([C:19]([N:18]1[CH2:17][CH2:16][N:15]([CH2:14][CH2:13][CH2:12][O:11][c:10]2[cH:9][cH:8][c:7]([C:5]([CH3:4])=[O:6])[cH:27][cH:26]2)[CH2:25][CH2:24]1)=[O:20])[CH3:22],[CH3:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][CH2:14][N:15]2[CH2:16][CH2:17][N:18]([C:19](=[O:20])[C@@H:21]([CH3:22])[NH2:23])[CH2:24][CH2:25]2)[cH:26][cH:27]1.[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[NH:23][C@@H:21]([C:19]([N:18]1[CH2:17][CH2:16][N:15]([CH2:14][CH2:13][CH2:12][O:11][c:10]2[cH:9][cH:8][c:7]([C:5]([CH3:4])=[O:6])[cH:27][cH:26]2)[CH2:25][CH2:24]1)=[O:20])[CH3:22],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][c:4]([C:5]([F:6])([F:7])[F:8])[cH:9][cH:10][c:11]1[F:12].[CH3:13][O:14][c:15]1[cH:16][c:17]2[c:18]([cH:19][c:20]1[N:21]1[CH2:22][CH2:23][O:24][CH2:25][CH2:26]1)[CH2:27][CH2:28][C:29]2=[O:30]>>[CH:1](\[c:2]1[cH:3][c:4]([C:5]([F:6])([F:7])[F:8])[cH:9][cH:10][c:11]1[F:12])=[C:28]1\[CH2:27][c:18]2[c:17]([cH:16][c:15]([O:14][CH3:13])[c:20]([N:21]3[CH2:22][CH2:23][O:24][CH2:25][CH2:26]3)[cH:19]2)[C:29]1=[O:30],[CH3:13][O:14][c:15]1[cH:16][c:17]2[c:18]([cH:19][c:20]1[N:21]1[CH2:22][CH2:23][O:24][CH2:25][CH2:26]1)[CH2:27][CH2:28][C:29]2=[O:30].[O:101]=[CH:1][c:2]1[cH:3][c:4]([C:5]([F:6])([F:7])[F:8])[cH:9][cH:10][c:11]1[F:12].[OH-:301]>>[CH:1](\[c:2]1[cH:3][c:4]([C:5]([F:6])([F:7])[F:8])[cH:9][cH:10][c:11]1[F:12])=[C:28]1\[CH2:27][c:18]2[c:17]([cH:16][c:15]([O:14][CH3:13])[c:20]([N:21]3[CH2:22][CH2:23][O:24][CH2:25][CH2:26]3)[cH:19]2)[C:29]1=[O:30],aldol_condensation,"[(301, 28.1), ([28.1, 28], [28, 29]), ([29, 30], 30), (30, [30, 29]), ([29, 28], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 28.1), ([28.1, 28], [28, 29]), ([29, 30], 30), (30, [30, 29]), ([29, 28], [28, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
